Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
UC, ileostomy
 
Major Surgical or Invasive Procedure:
Ileostomy Takedown

 
History of Present Illness:
Patient is ___ status post laparoscopic total proctocolectomy 
with ileal
pouch, anal anastomosis, diverting loop ileostomy on ___ by Dr. ___.  She recently hospitalized for Rectal
bleeding, thrush and fissure.  Her Lovenox was d/c during that
admission and she was discharged on ___.  Ms. ___
reports that she is doing well since that discharge from the
hospital.  She denies any fever, chills, nausea, vomiting or
bleeding.  Her ostomy output has been within normal limits. Her
appetite and energy are back to baseline. She denies any pain or
symptoms of dehydration and is anxious to get her ileostomy
reversed.

EXAM: ABDOMEN: Soft, nontender, nondistended, normoactive bowel
sounds.  Laparoscopic sites and incision are well healed.

A:is doing well post operatively, there are no signs of 
infection
or hernia. She will continue the nifedipine for the next three 
to
four weeks.  She will then be scheduled for her Pouchogram and 
if
no leaks are detected she will have surgery for ileostomy
takedown.  She is in agreement with this plan and Dr. ___ her today.   All questions were answered to her
satisfaction.

 
Past Medical History:
PMH: ulcerative colitis [dx ___, prior Remicade (___), 
Humira (___), Symponi (___), currently on MTX], 
insomnia  

PSH:
laparoscopic TPC/IPAA/diverting ileostomy ___

 
Social History:
___
Family History:
No family hx GI malignancy or IBD. Recent diagnoses of prostate 
cancer in uncle. 
 
Physical Exam:
VS: T98 BP110/75 HR92 RR18 O2 Sat99%RA
GEN: NAD, A&Ox3
HEENT: NCAT
CV: RRR
PULM: no respiratory distress, breathing at RA
ABD: soft, appropriately tender, minimally distended, no
rebound/guarding. 
EXT: WWP
NEURO: A&Ox3
wound: CDI, serous drainage at site of ostomy 
 
Pertinent Results:
Labs:
==============
___ 10:22AM   POTASSIUM-3.1*
___ 10:22AM   MAGNESIUM-1.9
___ 10:22AM   HCT-34.9#

 
Brief Hospital Course:
Ms. ___ is a ___ presented to pre-op holding at ___ on 
___ for an ileostomy takedown. She tolerated the 
procedure well without complications (Please see operative note 
for further details). After a brief and uneventful stay in the 
PACU, the patient was transferred to the floor for further 
post-operative management. Her hospital course was complicated 
by post-operative ileus for which patient was managed with bowel 
rest, IVF, and pain medications. 
Neuro: Pain was well controlled on Acetaminophen, Dilaudid, and 
Oxycodone as needed. 
CV: Vital signs were routinely monitored and stable during the 
patient's length of stay.
Pulm: The patient was encouraged to ambulate, sit and get out of 
bed, use the incentive spirometer, and had oxygen saturation 
levels monitored as indicated.
GI: The patient was initially kept NPO after the procedure. Her 
hospital course was complicated by ileus in which she presented 
with nausea and vomiting. Patient was placed on bowel rest and 
given IVFs. The patient was later advanced to and tolerated a 
regular diet at time of discharge.
GU: Urine output was monitored as indicated. At time of 
discharge, the patient was voiding without difficulty.
ID: The patient's vital signs were monitored for signs of 
infection and fever. 
Heme: The patient had blood levels checked post operatively 
during the hospital course to monitor for signs of bleeding. The 
patient had vital signs, including heart rate and blood 
pressure, monitored throughout the hospital stay.
On ___, the patient was discharged to home. At discharge, she 
was tolerating a regular diet, passing flatus, stooling, 
voiding, and ambulating independently. She will follow-up in the 
clinic in ___ weeks. This information was communicated to the 
patient directly prior to discharge.

Post-Surgical Complications During Inpatient Admission:
[x] Post-Operative Ileus resolving w/o NGT
[ ] Post-Operative Ileus requiring management with NGT
[ ] UTI
[ ] Wound Infection
[ ] Anastomotic Leak
[ ] Staple Line Bleed
[ ] Congestive Heart failure
[ ] ARF
[ ] Acute Urinary retention, failure to void after Foley D/C'd
[ ] Acute Urinary Retention requiring discharge with Foley 
Catheter
[ ] DVT
[ ] Pneumonia
[ ] Abscess
[ ] None

Social Issues Causing a Delay in Discharge:
[ ] Delay in organization of ___ services
[ ] Difficulty finding appropriate rehab hospital disposition.
[ ] Lack of insurance coverage for ___ services
[ ] Lack of insurance coverage for prescribed medications.
[ ] Family not agreeable to discharge plan.
[ ] Patient knowledge deficit related to ileostomy delaying 
dispo
[x] No social factors contributing in delay of discharge.

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Moderate 
do not take more than 3000mg of Tylenol in 34 hours or drink 
alcohol while taking  
2.  HYDROmorphone (Dilaudid) ___ mg PO Q4H:PRN Pain - Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
do not drink alcohol or drive a car while taking this medication 
 
3.  Multivitamins 1 TAB PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Unneeded Ileostomy after Colectomy for Ulcerative Colitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital after an ileostomy takedown. 
You have recovered from this procedure well and you are now 
ready to return home. You have tolerated a regular diet, passing
gas and your pain is controlled with pain medications by mouth. 
You may return home to finish your recovery.
Please monitor your bowel function closely. You may or may not 
have had a bowel movement prior to your discharge which is 
acceptable, however it is important that you have a bowel 
movement in the next ___ days. After anesthesia it is not 
uncommon for patient’s to have some decrease in bowel function 
but your should not have prolonged constipation. Some loose 
stool and passing of small amounts of dark, old appearing blood 
are expected however, if you notice that you are passing bright 
red blood with bowel your please seek medical attention. If you 
are passing loose stool without improvement please call the 
office or go to the emergency room if the symptoms are severe. 
If you are taking narcotic pain medications there is a risk that 
you will have some constipation. Please take an over the counter 
stool softener such as Colace, and if the symptoms does not 
improve call the office. It is also not uncommon after an 
ileostomy takedown to have frequent loose stools until you are 
taking more regular food however this should improve.
The muscles of the sphincters have not been used in quite some 
time and you may experience urgency or small amounts of 
incontinence however this should improve. If you do not show 
improvement in these symptoms within ___ days please call the 
office for advice. Occasionally, patients will need to take a 
medication to slow their bowel movements as their bodies adjust 
to the new normal without an ileostomy, you should consult with 
our office for advice. If you have any of the following symptoms 
please call the office for advice or go to the emergency room if 
severe: increasing abdominal distension, increasing abdominal 
pain, nausea, vomiting, inability to tolerate food or liquids, 
prolonged loose stool, or constipation.
You have a small wound where the old ileostomy once was. This 
should be covered with a dry sterile gauze dressing. The wound 
no longer requires packing with gauze packing strip. Please 
monitor the incision for signs and symptoms of infection 
including: increasing redness at the incision, opening of the 
incision, increased pain at the incision line, draining of 
white/green/yellow/foul smelling drainage, or if you develop a 
fever. Please call the office if you develop these symptoms or 
go to the emergency room if the symptoms are severe. You may 
shower, let the warm water run over the wound line and pat the 
area dry with a towel, do not rub. Please apply a new gauze 
dressing after showering.
No heavy lifting for at least 6 weeks after surgery unless 
instructed otherwise by your surgical team. You may gradually 
increase your activity as tolerated but clear heavy exercise 
with your surgical team.
You will be prescribed a small amount of the pain medication 
________. Please take this medication exactly as prescribed. You 
may take Tylenol as recommended for pain. Please do not take 
more than 3000mg of Tylenol daily. Do not drink alcohol while 
taking narcotic pain medication or Tylenol. Please do not drive 
a car while taking narcotic pain medication.
Thank you for allowing us to participate in your care! Our hope 
is that you will have a quick return to your life and usual 
activities.
Good luck!

 
Followup Instructions:
___